US04147780
The procedure described in Example 1C was repeated using 1-benzhydrylaminocyclohexanephosphonous acid as starting material instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give 1-aminocyclohexanephosphonous acid of melting point 228°-229° (dec.).

reactant | 1-benzhydrylaminocyclohexanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1(CCCCC1)P(O)O | C19H24NO2P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-aminocyclohexanephosphonous acid | NC1(CCCCC1)P(O)O | C6H14NO2P
